US04589910
5 parts of gaseous dimethylamine were passed into a solution of 33.6 parts of 5-(4'-isocyanato-2'-trifluoromethylphenoxy)-benzisothiazole in 400 parts of acetonitrile at from 10° to 20° C. and the reaction was allowed to continue for 12 hours at from 20° to 30° C., after which the solvent was removed under reduced pressure and the residue was recrystallized from chloroform. 32.7 parts (86% of theory) of 5-(4'-dimethylaminocarbonylamino-2'-trifluoromethylphenoxy)-benzisothiazole of melting point 188° C. were obtained.

reactant | dimethylamine | CNC | C2H7N
reactant | 5-(4'-isocyanato-2'-trifluoromethylphenoxy)-benzisothiazole | N(=C=O)C1=CC(=C(OC=2C=CC3=C(C=NS3)C2)C=C1)C(F)(F)F | C15H7F3N2O2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(4'-dimethylaminocarbonylamino-2'-trifluoromethylphenoxy)-benzisothiazole | 86% | CN(C(=O)NC1=CC(=C(OC=2C=CC3=C(C=NS3)C2)C=C1)C(F)(F)F)C | C17H14F3N3O2S
